US07790709B2
Preparation of (E)-3-(6-Amino-pyridin-3-yl)-N-(2-ethoxy-3-methoxy-benzyl)-N-methyl-acrylamide hydrochloride
EDC (231 mg, 1.2 mmol) was added to a solution of (−3-(6-amino-pyridin-3-yl)acrylic acid (164 mg, 1.0 mmol), (2-ethoxy-3-methoxy-benzyl)methylamine (215 mg, 1.1 mmol), HOBt H2O (149 mg, 1.1 mmol) and DIPEA (525 μL, 3.0 mmol) in dry DMF (10 mL). After 18 hr of stirring, the mixture was diluted with water (60 mL) and extracted with EtOAc (2×20 mL). The organic layer was washed with brine (2×30 mL), dried and evaporated. Flash chromatography (silica 1-3% MeOH in CH2Cl2) furnished pure free base which was dissolved in CH2Cl2 (10 mL). After addition of HCl (1.5 mL, 1M in ether), the solvents were evaporated and the residue was washed with ether and dried to afford the title compound (172 mg, 46%). 1H NMR (300 MHz, DMSO-d6) δ 8.28 (m, 3H), 7.48 and 7.45 (rotamers, 2d, J=15.4 Hz, 1H), 7.25 and 7.23 (rotamers, 2d, J=15.4 Hz, 11H), 7.00 (m, 3H), 6.62 (m, 1H), 4.78 and 4.63 (rotamers, 2s, 2H), 3.98 (m, 2H), 3.79 (s, 3H), 3.08 and 2.84 (rotamers, 2s, 3H), 1.28 (m, 3H). MS (ESI) m/e 342 (M+H)+.

reactant | EDC | 1.2 mmol, 231 mg
reactant | 3-(6-amino-pyridin-3-yl)acrylic acid | 1.0 mmol, 164 mg | NC1=CC=C(C=N1)C=CC(=O)O | C8H8N2O2
reactant | (2-ethoxy-3-methoxy-benzyl)methylamine | 1.1 mmol, 215 mg | C(C)OC1=C(CCN)C=CC=C1OC | C11H17NO2
reactant | HOBt H2O | 1.1 mmol, 149 mg | C=1C=CC2=C(C1)N=NN2O.O
reactant | DIPEA | 3.0 mmol, 525 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 1M, 1.5 mL | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 60 mL | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-(6-Amino-pyridin-3-yl)-N-(2-ethoxy-3-methoxy-benzyl)-N-methyl-acrylamide hydrochloride | 172 mg, 46% | Cl.NC1=CC=C(C=N1)/C=C/C(=O)N(C)CC1=C(C(=CC=C1)OC)OCC | InChI=1S/C19H23N3O3.ClH/c1-4-25-19-15(6-5-7-16(19)24-3)13-22(2)18(23)11-9-14-8-10-17(20)21-12-14;/h5-12H,4,13H2,1-3H3,(H2,20,21);1H/b11-9+;
